US06894061B2
N-(4′-Chloro-1,1′-biphenyl-2-yl)acetamide
The title compound was prepared from 4′-chloro-1,1′-biphenyl-2-amine (3.5 g, 17.19 mmol), acetic anhydride (1.79 mL, 18.9 mmol), pyridine (3.2 mL, 39.5 mmol), and 4-(N,N-dimethylamino)pyridine (0.06 g, 0.52 mmol) according to the procedure and in the same manner as described in Example 60, step b. The crude product was purified by re-crystallization from a mixture of ethyl acetate-hexane to yield N-(4′-chloro-1,1′-biphenyl-2-yl)acetamide (2.16 g, 8.78 mmol, 51%) as a white solid;

reactant | 4′-chloro-1,1′-biphenyl-2-amine | 17.19 mmol, 3.5 g | ClC1=CC=C(C=C1)C=1C(=CC=CC1)N | C12H10ClN
reactant | acetic anhydride | 18.9 mmol, 1.79 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 39.5 mmol, 3.2 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 0.52 mmol, 0.06 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | N-(4′-chloro-1,1′-biphenyl-2-yl)acetamide | 8.78 mmol, 2.16 g, 51% | ClC1=CC=C(C=C1)C1=C(C=CC=C1)NC(C)=O | C14H12ClNO
